US04508658
α-Cyano-phenylacetic acid-pentafluorophenyl ester
8 g. (0.05 moles) of α-cyano-phenylacetic acid are dissolved in 80 ml. of dichloromethane. 10.2 g. (0.05 moles) of phosphorus pentachloride are added and the mixture is stirred for two hours at the boiling point of dichloromethane. The solvent is distilled off and the residue is taken up in carbontetrachloride and the solution is added dropwise to 9.2 g. (0.05 moles) of pentafluorophenol and 4 ml. (0.05 moles) of pyridine-dissolved in 200 ml. of carbontetrachloride. The reaction mixture is cooled to 0° C. and the pyridine chlorohydrate is washed with 2n hydrochloride acid. The organic layer is washed twice with 40 ml. of water, dried over magnesium sulfate and evaporated. The α-cyano-phenylacetic acid-pentafluorophenyl ester is recrystallized from petrolether

reactant | α-cyano-phenylacetic acid | 0.05 moles | C(#N)C(C(=O)O)C1=CC=CC=C1 | C9H7NO2
reactant | phosphorus pentachloride | 0.05 moles | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | pentafluorophenol | 0.05 moles | FC1=C(C(=C(C(=C1O)F)F)F)F | C6HF5O
reactant | pyridine | 0.05 moles | N1=CC=CC=C1 | C5H5N
solvent | carbontetrachloride | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | dichloromethane | ClCCl | CH2Cl2
product | α-Cyano-phenylacetic acid-pentafluorophenyl ester | FC1=C(C(=C(C(=C1OC(C(C#N)C1=CC=CC=C1)=O)F)F)F)F | C15H6F5NO2
